US09334279B2
To a dry 2 dram vial equipped with a stir bar was added 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine (60 mg, 0.21 mmol) and Pd(dppf)Cl2 (8 mg, 10 μmol). The vial was sealed with a septum screw-cap and was then placed under N2 atmosphere. To the vial was added THF (0.5 mL), then thiazol-2-ylzinc(II) bromide in THF (0.5M, 0.53 mL, 0.27 mmol). The vial was placed in a 60° C. heating block with stirring for 2 hours. The vial was opened, and then charged with Pd(dppf)Cl2 (8 mg, 10 μmol). The vial was re-sealed and then placed under N2 atmosphere, and to the vial was added thiazol-2-ylzinc(II) bromide in THF (0.5M, 0.53 mL, 0.27 mmol). The vial was placed in a 60° C. heating block with stirring for 5 hours. The reaction solution was cooled to room temperature and then concentrated under a stream of N2. The resulting solid residue was subjected to silica gel chromatography to afford 2-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)thiazole as a white solid (24 mg, 34%).

reactant | 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine | 0.21 mmol, 60 mg | ClC1=NC(=CC(=C1)Cl)C1=CC=C(C=C1)OC(C)C | C14H13Cl2NO
reactant | thiazol-2-ylzinc(II) bromide | [Br-].S1C(=NC=C1)[Zn+]
catalyst | Pd(dppf)Cl2 | 10 μmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(dppf)Cl2 | 10 μmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.27 mmol, 0.5M, 0.53 mL | C1CCOC1 | C4H8O
solvent | THF | 0.27 mmol, 0.5M, 0.53 mL | C1CCOC1 | C4H8O
product | 2-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)thiazole | 24 mg, 34% | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)OC(C)C)C=1SC=CN1 | C17H15ClN2OS
